US04885300
1-(1-Chloro-2-hydroxy-3-propanyl)-4-(4-chlorobenzhydryl)piperazine Hemihydrate
4-Chlorobenzhydrylpiperazine (14.34 g, 50 mmol) in EtOH (150 mL) was added to epichlorohydrin (3.92 mL, 50 mmol) in ethanol (25 mL) and NaHCO3 (4.2 g, 50 mmol) over 45 min at 0° C. under nitrogen. After 20 h, the EtOH was removed in vacuo and the residue eluted through silica gel using 50% methanol: methylene chloride to give the pure product (3.40 g, 18.3%) as a white solid, mp 72°-74° C. DCI/MS (M+1) 379. 400 MHz 1H NMR (CDCl3) δ: 7.5-7.35 (m, 9H), 4.2 (s, 1H), 3.65 (m, 2H), 2.9 (m, 2H), 2.7-2.6 (m, 8H).

reactant | 4-Chlorobenzhydrylpiperazine | 50 mmol, 14.34 g | ClC1=CC=C(C(C2=CC=CC=C2)N2CCNCC2)C=C1 | C17H19ClN2
reactant | epichlorohydrin | 50 mmol, 3.92 mL | C(Cl)C1CO1 | C3H5ClO
reactant | NaHCO3 | 50 mmol, 4.2 g | C(=O)(O)[O-].[Na+]
solvent | EtOH | 150 mL | CCO | C2H6O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 1-(1-Chloro-2-hydroxy-3-propanyl)-4-(4-chlorobenzhydryl)piperazine Hemihydrate | 3.40 g, 18.3% | O.ClCC(CN1CCN(CC1)C(C1=CC=C(C=C1)Cl)C1=CC=CC=C1)O.ClCC(CN1CCN(CC1)C(C1=CC=C(C=C1)Cl)C1=CC=CC=C1)O | InChI=1S/2C20H24Cl2N2O.H2O/c2*21-14-19(25)15-23-10-12-24(13-11-23)20(16-4-2-1-3-5-16)17-6-8-18(22)9-7-17;/h2*1-9,19-20,25H,10-15H2;1H2
